US05552397
a) [2-[(Methylsulfonyl)oxy]ethyl]carbamic acid, 1,1-dimethylethyl ester
Di-tert-butyldicarbonate (21.8 g., 100 mmol) was added in portions to a stirred solution of ethanolamine (6.1 g., 100 mmol) in dichloromethane (100 ml.) at 0°-5° C. After addition was complete, the cooling bath was removed and the solution was stirred at room temperature for five hours. The solvent was removed in vacuo and the resulting material was dissolved in dichloromethane (100 ml.) and triethylamine (21 ml., 150 mmol), cooled to -10° C. and treated dropwise, over a period of 10 minutes, with methanesulfonyl chloride (9.25 g., 150 mmol). The mixture was diluted with ethyl acetate (200 ml.) and washed with 1N hydrochloric acid and water. The ethyl acetate layer was dried (magnesium sulfate), filtered, and freed of solvent in vacuo to give the product as a viscous oil which was used without purification.

reactant | Di-tert-butyldicarbonate | 100 mmol, 21.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethanolamine | 100 mmol, 6.1 g | C(O)CN | C2H7NO
reactant | triethylamine | 150 mmol, 21 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 150 mmol, 9.25 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | [2-[(Methylsulfonyl)oxy]ethyl]carbamic acid, 1,1-dimethylethyl ester | CS(=O)(=O)OCCNC(OC(C)(C)C)=O | C8H17NO5S
